US06989392B2
N-(4-((4-((2-aminoquinolin-8-yl)oxy)pentyl)oxy)phenyl)acetamide
The title compound was prepared according to the procedure described in Example 86 substituting acetaminophen for 8-hydroxyquinaldine. 1H NMR (500 MHz, CDCl3) δ ppm 7.90 (d, 1H), 7.29 (t, 1H), 7.20 (m, 3H), 7.11 (m, 1H), 6.95 (d, 1H), 6.61 (m, 2H), 4.70 (m, 1H), 4.05 (m, 1H), 3.91 (m, 1H), 2.14 (s, 3H), 2.08 (m, 1H), 1.95 (m, 3H), 1.48 (d, 3H); MS (DCI/NH3) m/z 380 [M+H]+.

reactant | acetaminophen | CC(=O)NC=1C=CC(=CC1)O | C8H9NO2
reactant | 8-hydroxyquinaldine | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | NH3 | N | H3N
product | N-(4-((4-((2-aminoquinolin-8-yl)oxy)pentyl)oxy)phenyl)acetamide | NC1=NC2=C(C=CC=C2C=C1)OC(CCCOC1=CC=C(C=C1)NC(C)=O)C | C22H25N3O3
